US08067448B2
N′-((2R,3S)-3-(tert-butyldimethylsilyloxy)-2-(3-chloro-4-cyano-2-methylphenylamino)butanoyl)-4-nitrobenzohydrazide
N′-((2R,3R)-2-(3-chloro-4-cyano-2-methylphenylamino)-3-hydroxybutanoyl)-4-nitrobenzo-hydrazide (2.0 g, 4.63 mmol) was added to DMF (100 mL), followed by addition of TBDMS-Cl (1.74 g, 11.6 mmol) and imidazole (1.58 g, 23.2 mmol) at 0° C. The solution was allowed to stir at 0° C. for 30 minutes and then at room temperature for overnight. The reaction was quenched with the addition of 200 mL brine and extract with EtOAc. Purification by flash column chromatography [EtOAc-hexanes (1:1) as eluent] afforded the title compound as a white solid (780 mg, 82%). 1H NMR (400 MHz, d6-acetone, δ in ppm) 9.88 (br s, 2H), 8.35 (d, J=6.7 Hz, 2H), 8.16 (d, J=6.7 Hz, 2H), 7.53 (d, J=7.5 Hz, 1H), 6.69 (d, J=7.5 Hz, 1H), 5.56 (d, J=6.6 Hz, 1H), 4.46-4.36 (m, 1H), 4.18-4.10 (m, 1H), 3.26 (s, 3H), 1.37 (d, J=7.4 Hz, 3H), 0.94 (s, 9H), 0.14 (s, 3H), 0.11 (s, 3H).

reactant | N′-((2R,3R)-2-(3-chloro-4-cyano-2-methylphenylamino)-3-hydroxybutanoyl)-4-nitrobenzo-hydrazide | 4.63 mmol, 2.0 g | ClC=1C(=C(C=CC1C#N)N[C@@H](C(=O)NNC(C1=CC=C(C=C1)[N+](=O)[O-])=O)[C@@H](C)O)C | C19H18ClN5O5
reactant | TBDMS-Cl | 11.6 mmol, 1.74 g | CC(C)(C)[Si](C)(C)Cl | C6H15ClSi
reactant | imidazole | 23.2 mmol, 1.58 g | N1C=NC=C1 | C3H4N2
solvent | DMF | 100 mL | CN(C)C=O | C3H7NO
product | N′-((2R,3S)-3-(tert-butyldimethylsilyloxy)-2-(3-chloro-4-cyano-2-methylphenylamino)butanoyl)-4-nitrobenzohydrazide | 780 mg, 82% | [Si](C)(C)(C(C)(C)C)O[C@H]([C@H](C(=O)NNC(C1=CC=C(C=C1)[N+](=O)[O-])=O)NC1=C(C(=C(C=C1)C#N)Cl)C)C | C25H32ClN5O5Si
